2178-02-28 10:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Post procedure agitation and confusion
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: No changes to PMH, FH since
   admission note [**2-28**].
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-2-28**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 90 (85 - 93) bpm
   BP: 138/56(76) {131/52(73) - 176/88(123)} mmHg
   RR: 23 (18 - 26) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,016 mL
                                                                  1,692 mL
   PO:
             480 mL
   TF:
   IVF:
                                                                    319 mL
                                                                  1,212 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                  1,360 mL
   Urine:
                                                                    950 mL
                                                                    660 mL
   NG:
   Stool:
   700 mL
   Drains:
   Balance:
                                                                    566 mL
                                                                    332 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : bases b/l)
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x 3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   239 K/uL
   212 mg/dL
   1.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   41 mg/dL
   103 mEq/L
   139 mEq/L
   28.4 %
   8.0 K/uL
        [image002.jpg]
                             [**2178-2-27**]  10:55 PM
                             [**2178-2-28**]  03:13 AM
                             [**2178-2-28**]  06:35 AM
   WBC
   8.0
   Hct
   29.2
   28.6
   28.4
   Plt
   239
   Cr
   1.6
   Glucose
   212
   Other labs: PT / PTT / INR:24.5/37.5/2.4, Mg++:2.5 mg/dL
   Imaging: CXR: bibasilar atelectasis
   Assessment and Plan
   69 year old man with renal mass s/p bleeding requiring embolization
   presents for reinitiation of IV heparin (given mechanical valve)
   1. Heme: anti coag for recurrent CVAs and mechanical valve. As per IR
   and Urology, restarted on heparin drip without bolus (with goal PTT
   60-80), monitor closely for signs and symptoms of bleeding, serial HCT,
   q4-6 hr PTT. Will dialogue with urology for goal HCT.  Will restart
   coumadin tonight.
   2. HTN: continue home meds
   3. Pain: try to covert to PO meds.
   4. New O2 requirement: likely multifactorial with obesity, lying
   supine,  pain meds, work on OOB to chair, try albuterol nebs, CXR
   (looks like atelectasis). Ctrl Pain, Incentive spirometry, nebs for
   COPD (given smoking hx). Hold on steroids for now.
   5. ARF: down this AM, seemed to respond to fluid. Watch UOP, renally
   dose meds. Renal failure seems to be improving
   over the past 12 hrs (UOP 50-70 cc/hr since midnight). Will f/u with
   urology.
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2178-2-27**] 10:35 PM
   18 Gauge - [**2178-2-27**] 10:36 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: not indicated.
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor when stable (tomorrow likely)
   Total time spent: 40 minutes

2178-03-01 06:58:00 Physician Resident Progress Note
Chief Complaint: 69M h/o R renal subcapsular hematoma and mass s/p IR
   embolization of R renal artery, mechanical AVR on warfarin, multiple
   previous strokes, transferred for respiratory monitoring s/p procedure.
   24 Hour Events:
   - Urology recs: Strict bedrest, hold fluids, can d/c heparin once INR
   >2.5
   - Hct to 27.8, pt wheezy, PRBC transfusion held
   - No BM X 4 days + abd distention, but passing flatus
 KUB ordered,
   bowel regimen started
   - Nausea
 EKG
I/aVL TWI
 CEs added, ASA 325mg daily started
   - Kept violating bedrest
 hematuria
   - Delirious
 reorientation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-3-1**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 78 (75 - 92) bpm
   BP: 131/106(87) {124/47(63) - 157/106(112)} mmHg
   RR: 20 (16 - 27) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,503 mL
                                                                    149 mL
   PO:
                                                                    820 mL
             TF:
   IVF:
                                                                  1,683 mL
                                                                    149 mL
   Blood products:
   Total out:
                                                                  2,155 mL
                                                                    310 mL
   Urine:
                                                                  1,455 mL
                                                                    310 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                    348 mL
                                                                   -161 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic.  Supraglottic wheezing.
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal, Loud)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), supraglottic wheezing,
   lung fields clear
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: No BLE edema
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   273 K/uL
   9.2 g/dL
   194 mg/dL
   1.7 mg/dL
   32 mEq/L
   4.2 mEq/L
   40 mg/dL
   102 mEq/L
   138 mEq/L
   27.5 %
   9.1 K/uL
        [image002.jpg]
                             [**2178-2-27**]  10:55 PM
                             [**2178-2-28**]  03:13 AM
                             [**2178-2-28**]  06:35 AM
                             [**2178-2-28**]  10:22 AM
                             [**2178-2-28**]  06:19 PM
                             [**2178-3-1**]  12:00 AM
                             [**2178-3-1**]  06:07 AM
   WBC
   8.0
   9.1
   Hct
   29.2
   28.6
   28.4
   29.9
   27.9
   28.2
   27.5
   Plt
   239
   273
   Cr
   1.6
   1.7
   TropT
   <0.01
   Glucose
   212
   194
   Other labs: PT / PTT / INR:30.7/83.5/3.1, CK / CKMB /
   Troponin-T:136/5/<0.01, Ca++:8.3 mg/dL, Mg++:2.6 mg/dL, PO4:2.8 mg/dL
   Imaging:
   [**3-1**] CXR pending official read
   [**2-28**] KUB pending official read
   Microbiology: None
   Assessment and Plan
   69M h/o R renal subcapsular hematoma and mass s/p IR embolization of R
   renal artery, mechanical AVR on warfarin, multiple previous strokes,
   transferred for respiratory monitoring s/p procedure.
   .
   Nausea, diaphoresis: EKG demonstrated new I, aVL TWI; started on ASA
   325mg daily.  CE x1 negative.
   - Given CAD, concern for ischemia.  Cycle CE x2.  Repeat EKG.  Consult
   cards if EKG changes do not resolve given concern for perioperative
   ischemia.
   - Continue medical mgt: ASA, valsartan, amlodipine, bisoprolol,
   simvastatin, ezetimibe
   .
   Supraglottic wheezing: Concern for vocal cord swelling possibly [**12-27**]
   aspiration in setting of conscious sedation during procedure.  Unlikely
   anaphylactoid picture as no new medications.
   - ENT consulted
   - Start inhaled corticosteroids; consider starting systemic
   corticosteroids.
   .
   Abdominal distention: No BM x4 days, KUB obtained, pending official
   read.  Bowel regimen on board.
   .
   Delirium: Disoriented last night [**12-27**] hospitalization
   - Supportive care, reorientation, keep with natural sleep/wake cycle
   .
   Right renal mass: s/p renal artery embolization.
   - Strict bedrest: Pt violated repeatedly, developed hematuria, but hct
   stable.
   - Hct Q8H, transfuse hct < 30 weighing merits of fluid overload given
   current wheezing
   - Urology recs
   .
   Respiratory status: Continues wheezing
   - Nebulizers, fexofenadine
   - CXR this a.m.
   - Hold diuresis [**12-27**] possible bleed
   .
   Mechanical AVR: INR 3.1.  Heparin gtt bridge to warfarin.
   - D/c heparin gtt
   .
   PVD: Warfarin, ASA.  Afterload reduction with valsartan, amlodipine,
   bisoprolol
   - Simvastatin, ezetimibe
   .
   Depression:  Continue citalopram
   .
   Pain:  Hydromorphone PCA, oxycodone PRN
   ICU Care
   Nutrition:
   Comments: PO intake
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2178-2-27**] 10:35 PM
   18 Gauge - [**2178-2-27**] 10:36 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt, warfarin)
   Stress ulcer: Not indicated
   VAP:
   Comments: Not intubated
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-03-01 09:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Nausea last night with ECG with new T inversions in I and aVL
   Mild hematuria last night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH, Review of systems is unchanged from admission except as
   noted below
   Review of systems:
   Flowsheet Data as of  [**2178-3-1**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.5
   HR: 79 (75 - 92) bpm
   BP: 140/69(84) {124/47(63) - 170/106(112)} mmHg
   RR: 23 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,503 mL
                                                                    454 mL
   PO:
                                                                    820 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,683 mL
                                                                    214 mL
   Blood products:
   Total out:
                                                                  2,155 mL
                                                                    445 mL
   Urine:
                                                                  1,455 mL
                                                                    445 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                    348 mL
                                                                      9 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Dullness : bases), (Breath Sounds:
   No(t) Clear : , Crackles : bases b/l)
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   273 K/uL
   194 mg/dL
   1.7 mg/dL
   32 mEq/L
   4.2 mEq/L
   40 mg/dL
   102 mEq/L
   138 mEq/L
   27.5 %
   9.1 K/uL
        [image002.jpg]
                             [**2178-2-27**]  10:55 PM
                             [**2178-2-28**]  03:13 AM
                             [**2178-2-28**]  06:35 AM
                             [**2178-2-28**]  10:22 AM
                             [**2178-2-28**]  06:19 PM
                             [**2178-3-1**]  12:00 AM
                             [**2178-3-1**]  06:07 AM
   WBC
   8.0
   9.1
   Hct
   29.2
   28.6
   28.4
   29.9
   27.9
   28.2
   27.5
   Plt
   239
   273
   Cr
   1.6
   1.7
   TropT
   <0.01
   Glucose
   212
   194
   Other labs: PT / PTT / INR:30.7/73.1/3.1, CK / CKMB /
   Troponin-T:136/5/<0.01, Ca++:8.3 mg/dL, Mg++:2.6 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: improved aeration of the bases bilateral, with increased
   lung volume
   AXR: stool in colon and dilation in the large bowel
   Assessment and Plan
   69M h/o R renal subcapsular hematoma and mass s/p IR embolization of R
   renal artery, mechanical AVR on warfarin, multiple previous strokes,
   transferred for respiratory monitoring s/p procedure. Hct has been
   stable
   Nausea, diaphoresis: EKG demonstrated new I, aVL TWI; started on ASA
   325mg daily.  CE x1 negative
   - Given CAD, concern for ischemia.  Cycle CE x2 and serial ECGs, will
   f/u with cardiology
   - Continue medical mgt: ASA, valsartan, amlodipine, bisoprolol,
   simvastatin, ezetimibe
   Abdominal distention: No BM x4 days, KUB demonstrates stool in colon
   and dilation.  Will try to convince him to accept enema.
   Delirium: Disoriented last night [**12-27**] hospitalization
   - Supportive care, reorientation, keep with natural sleep/wake cycle
   with good results
   Right renal mass: s/p renal artery embolization.
   - Strict bedrest: Pt violated repeatedly, developed hematuria, but hct
   stable.
   - Hct Q8H, transfuse hct < 30 weighing merits of fluid overload given
   current wheezing
   - Appreciate urology input
   Respiratory status: Supraglottic wheezing: not cord paralysis, ?
   aspiration onto cords, no other signs of anaphylactic reaction (also
   focal to supraglotic region).   Cool nebs for treatment. [**Month (only) 60**] need some
   racemic epi (he was not intubated for the procedure), will have ENT
   inspect the cords and based on this consider course of treatment.
   - Nebulizers, fexofenadine, IS and OOB when possible to minimize the
   atelectasis
   - Hold diuresis [**12-27**] possible bleed, and he is only mildly positive.
   Mechanical AVR: INR 3.1.  Converting to PO warfarin, stopped hep gtt/
   Other issues per ICU resident note.
   Depression:  Continue citalopram
   Pain:  Hydromorphone PCA, oxycodone PRN
   ICU Care
   Nutrition:
   Comments: Tolerating PO
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-2-27**] 10:35 PM
   18 Gauge - [**2178-2-27**] 10:36 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments: bed rest for now
   Communication:  Comments:
   Code status: Full code
   Disposition :Possible to transfer to floor.
   Total time spent: 35 minutes

2178-03-02 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2178-3-1**] 09:30 AM
 STOOL CULTURE - At [**2178-3-2**] 03:03 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2178-3-1**] 08:00 PM
   Furosemide (Lasix) - [**2178-3-1**] 11:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-3-2**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.5
C (97.7
   HR: 82 (72 - 88) bpm
   BP: 151/59(83) {110/45(63) - 176/69(92)} mmHg
   RR: 24 (16 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
           Total In:
                                                                  1,263 mL
                                                                    549 mL
   PO:
                                                                    900 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    363 mL
                                                                     68 mL
   Blood products:
   121 mL
   Total out:
                                                                  1,975 mL
                                                                    940 mL
   Urine:
                                                                  1,975 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -712 mL
                                                                   -391 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   253 K/uL
   8.5 g/dL
   131 mg/dL
   1.6 mg/dL
   28 mEq/L
   4.3 mEq/L
   40 mg/dL
   103 mEq/L
   139 mEq/L
   25.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2178-2-27**]  10:55 PM
                             [**2178-2-28**]  03:13 AM
                             [**2178-2-28**]  06:35 AM
                             [**2178-2-28**]  10:22 AM
                             [**2178-2-28**]  06:19 PM
                             [**2178-3-1**]  12:00 AM
                             [**2178-3-1**]  06:07 AM
                             [**2178-3-1**]  11:33 AM
                             [**2178-3-1**]  02:34 PM
                             [**2178-3-2**]  03:04 AM
   WBC
   8.0
   9.1
   8.4
   Hct
   29.2
   28.6
   28.4
   29.9
   27.9
   28.2
   27.5
   26.8
   25.4
   Plt
   [**Telephone/Fax (3) 1999**]
   Cr
   1.6
   1.7
   1.6
   TropT
   <0.01
   <0.01
   Glucose
   [**Telephone/Fax (3) 2000**]
   Other labs: PT / PTT / INR:38.6/46.0/4.2, CK / CKMB /
   Troponin-T:123/5/<0.01, Alk Phos / T Bili:/1.0, LDH:689 IU/L, Ca++:8.1
   mg/dL, Mg++:2.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-2-27**] 10:35 PM
   18 Gauge - [**2178-2-27**] 10:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-03-02 11:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   EKG unchanged yesterday. Cardiac enzymes flat. Cards attributed to LVH.
   Started on aspirin.
   Lasix given.
   ENT visualized vocal cords: no edema or inflammation.
   Delerium overnight.
   12U PRBC, 4U FFP since admission.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2178-3-1**] 08:00 PM
   Furosemide (Lasix) - [**2178-3-2**] 08:08 AM
   Other medications:
   per res note
   Changes to medical and family history:
   PMH, FH, Review of systems is unchanged from admission except as noted
   below
   Review of systems:
   Gastrointestinal: Abdominal pain, Constipation, BM yesterday
   Respiratory: Denies dyspnea
   Pain: [**3-31**] Moderate
   Pain location: back
   Flowsheet Data as of  [**2178-3-2**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.1
   HR: 84 (74 - 88) bpm
   BP: 154/50(79) {110/45(63) - 176/82(89)} mmHg
   RR: 25 (18 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
           Total In:
                                                                  1,263 mL
                                                                  1,075 mL
   PO:
                                                                    900 mL
                                                                    600 mL
   TF:
   IVF:
                                                                    363 mL
                                                                    100 mL
   Blood products:
   375 mL
   Total out:
                                                                  1,975 mL
                                                                  1,120 mL
   Urine:
                                                                  1,975 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -712 mL
                                                                    -45 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Percussion: Dullness : bases), (Breath Sounds:
   No(t) Clear : , Crackles : bases b/l). Exp wheezes referred from upper
   airway.
   Abdomen: distended, firm (but less than yesterday), nontender
   Extremities: Right: 1+, Left: 1+
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   289 K/uL
   131 mg/dL
   1.6 mg/dL
   28 mEq/L
   4.3 mEq/L
   40 mg/dL
   103 mEq/L
   139 mEq/L
   27.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2178-2-28**]  03:13 AM
                             [**2178-2-28**]  06:35 AM
                             [**2178-2-28**]  10:22 AM
                             [**2178-2-28**]  06:19 PM
                             [**2178-3-1**]  12:00 AM
                             [**2178-3-1**]  06:07 AM
                             [**2178-3-1**]  11:33 AM
                             [**2178-3-1**]  02:34 PM
                             [**2178-3-2**]  03:04 AM
                             [**2178-3-2**]  10:19 AM
   WBC
   8.0
   9.1
   8.4
   8.0
   Hct
   28.6
   28.4
   29.9
   27.9
   28.2
   27.5
   26.8
   25.4
   27.9
   Plt
   [**Telephone/Fax (3) 2006**]89
   Cr
   1.6
   1.7
   1.6
   TropT
   <0.01
   <0.01
   Glucose
   [**Telephone/Fax (3) 2000**]
   Other labs: PT / PTT / INR:38.6/46.0/4.2, CK / CKMB /
   Troponin-T:123/5/<0.01, Alk Phos / T Bili:/1.0, LDH:689 IU/L, Ca++:8.1
   mg/dL, Mg++:2.7 mg/dL, PO4:2.9 mg/dL
   Imaging: poor inspiration, right atelectasis
   Assessment and Plan
   MICU for post-procedure monitoring post-embolization renal artery and
   on heparin for mech AVR. Hct slowly stabilizing.
   Hypoxemia, dyspnea. Likely post-procedure atelectasis. Needs to get out
   of bed, ambulate, use incentive spirometer.
   Ileus. Still getting narcotics for flank pain. Had BM. If constipation
   becomes an issue again will encourage non-narcotic pain control.
   Pain. Add standing acetaminophen. Continue prn narcotics as
   constipation seems improved.
   Cardiac: per res note. No changes.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2178-2-27**] 10:35 PM
   18 Gauge - [**2178-2-27**] 10:36 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Will discuss with pt and family.
   Code status: Full code
   Disposition :Transfer to floor assuming hct stable at afternoon draw.
   Total time spent:

2178-03-02 15:46:00 Physician Resident Progress Note
Chief Complaint: 69M with right renal subcapsular hematoma, s/p R renal
   artery embolization with IR [**2-28**], also with mechanical AVR tx to ICU for
   anticoag and respiratory monitoring.
   24 Hour Events:
 EKG - At [**2178-3-1**] 09:30 AM
 STOOL CULTURE - At [**2178-3-2**] 03:03 AM
   Heparin d/c'd for therapeutic INR
   Transitioned to PO pain meds
   PCA d/c'd
   Advanced to OOB as tolerated
   ROMI'd
   Got lasix 20mg IV overnight for SOB, crackles on exam, wheeze
   SSI increased
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2178-3-1**] 08:00 PM
   Furosemide (Lasix) - [**2178-3-2**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Wheeze
   Pain location: Low back
   Flowsheet Data as of  [**2178-3-2**] 03:46 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 78 (77 - 88) bpm
   BP: 156/66(88) {110/49(70) - 176/82(89)} mmHg
   RR: 23 (18 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
           Total In:
                                                                  1,263 mL
                                                                  1,315 mL
   PO:
                                                                    900 mL
                                                                    840 mL
   TF:
   IVF:
                                                                    363 mL
                                                                    100 mL
   Blood products:
   375 mL
   Total out:
                                                                  1,975 mL
                                                                  1,840 mL
   Urine:
                                                                  1,975 mL
                                                                  1,840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -712 mL
                                                                   -525 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   Mechanical murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : ), upper airway wheeze
   Abdominal: Bowel sounds present, Distended, Tender: minimally TTP
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   289 K/uL
   9.3 g/dL
   131 mg/dL
   1.6 mg/dL
   28 mEq/L
   4.3 mEq/L
   40 mg/dL
   103 mEq/L
   139 mEq/L
   27.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2178-2-28**]  03:13 AM
                             [**2178-2-28**]  06:35 AM
                             [**2178-2-28**]  10:22 AM
                             [**2178-2-28**]  06:19 PM
                             [**2178-3-1**]  12:00 AM
                             [**2178-3-1**]  06:07 AM
                             [**2178-3-1**]  11:33 AM
                             [**2178-3-1**]  02:34 PM
                             [**2178-3-2**]  03:04 AM
                             [**2178-3-2**]  10:19 AM
   WBC
   8.0
   9.1
   8.4
   8.0
   Hct
   28.6
   28.4
   29.9
   27.9
   28.2
   27.5
   26.8
   25.4
   27.9
   Plt
   [**Telephone/Fax (3) 2006**]89
   Cr
   1.6
   1.7
   1.6
   TropT
   <0.01
   <0.01
   Glucose
   [**Telephone/Fax (3) 2000**]
   Other labs: PT / PTT / INR:38.6/46.0/4.2, CK / CKMB /
   Troponin-T:123/5/<0.01, Alk Phos / T Bili:/1.0, LDH:689 IU/L, Ca++:8.1
   mg/dL, Mg++:2.7 mg/dL, PO4:2.9 mg/dL
   Imaging: SINGLE UPRIGHT PORTABLE VIEW OF THE CHEST AT 6:20 A.M.: Again,
   lung volumes
   are low and the right hemidiaphragm remains elevated. However, the
   lungs are
   clear, with no focal consolidation, obvious pleural effusion or
   pneumothorax.
   The cardiomediastinal silhouette is unchanged. Median sternotomy wires
   are
   unchanged.
   Microbiology: C diff negative [**3-2**]
   Assessment and Plan
   69M h/o R renal subcapsular hematoma and mass s/p IR embolization of R
   renal artery, mechanical AVR on warfarin, multiple previous strokes,
   transferred for respiratory monitoring s/p procedure.
   .
   # Right renal mass: s/p renal artery embolization.
   - Per urology recs, have lifted activity restriction, has been OOB
   today.
   - Hct Q8H, transfused this am for HCT 25.4, responded appropriately, if
   PM HCT stable, tx to floor/urology service.
   -received total of 12 units PRBCs, 4 units FFP
   .
   #Wheezing: No known bronchospastic disease, wheezes audible at neck,
   concerned for upper airway wheeze, ENT consulted, no vocal cord
   abnormality, etiology likely intrathoracic.  Pt felt worse with nebs.
   Potentially cardiac wheeze due to fluid overload in setting of multiple
   transfusions.
   -Diuresed last night with 20mg IV, now switched to PO lasix. Continue
   to diurese as tolerated.
   -fexofenadine
   -CXR
   .
   #Abdominal distention: Likely due to constipation on narcotics.  KUB
   with no air in distal colol however pt had bowel movements after
   initiation of bowel regimen.
   -continue bowel regimen
   -consider alternative pain regimen, minimize narcotics, ATC tylenol.
   .
   #Mechanical AVR: INR 4.2 this am. Heparin gtt discontinued.  Received
   coumadin last night. Now on hold for supratherapeutic INR.
   -check daily coags, restart coumadin when INR <3.
   #Cardiac: Had episode hausea, diaphoresis on [**2-28**] : EKG demonstrated new
   I, aVL TWI; d/w cards started on ASA 325mg daily.  Ruled out for MI
   with enzymes.
   -d/w cards ? decrease ASA to 81mg.
   -- Continue medical mgt: ASA, valsartan, amlodipine, bisoprolol,
   simvastatin, ezetimibe
   .
   PVD: Warfarin (on hold for now), ASA.  Afterload reduction with
   valsartan, amlodipine, bisoprolol
   - Simvastatin, ezetimibe
   .
   Depression:  Continue citalopram
   .
   Pain:  oxycodone PRN, ATC tylenol
   ICU Care
   Nutrition:  PO intake
   Glycemic Control:  Not diabetic, BS well controlled
   Lines:
   20 Gauge - [**2178-2-27**] 10:35 PM
   18 Gauge - [**2178-2-27**] 10:36 PM
   Prophylaxis:
   DVT: Supratherapeutic INR
   Stress ulcer: not indicated
   VAP:  not indicated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: If HCT stable this afternoon, call out to floor.